US04797417
2N Jones reagent (8 ml) was diluted with acetone (12.5 ml). To this solution was added a solution of 5-(2-hydroxyethyl)-3-methoxy-4-phenyl-2(5H)-furanone (1.25 g) in acetone (12.5 ml) at 0° C. over a period of 50 minutes. The mixture was stirred at ambient temperature for 15 minutes and isopropylalcohol (5 ml) was added thereto. The mixture was poured into a mixture of ethyl acetate and water. The organic layer was separated, washed with water and brine, and dried. Evaporation of the solvent gave 2-(2,5-dihydro-4-methoxy-5-oxo-3-phenyl-2-furyl)acetic acid (865 mg) which was recrystallized from diethyl ether.

reactant | Jones reagent | 2N, 8 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 5-(2-hydroxyethyl)-3-methoxy-4-phenyl-2(5H)-furanone | 1.25 g | OCCC1C(=C(C(O1)=O)OC)C1=CC=CC=C1 | C13H14O4
reactant | isopropylalcohol | 5 ml | C(C)(C)O | C3H8O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 12.5 ml | CC(=O)C | C3H6O
solvent | acetone | 12.5 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-(2,5-dihydro-4-methoxy-5-oxo-3-phenyl-2-furyl)acetic acid | 865 mg | COC1=C(C(OC1=O)CC(=O)O)C1=CC=CC=C1 | C13H12O5
